US09259426B2
Synthesis of 4-(N-cyclohexylamino)-6-(4-fluorophenyl)-quinazoline
This compound was synthesized from 4-chloro-6-(4-fluorophenyl)-quinazoline and cyclohexylamine in 78% yield, using the procedure described for example 37. The product was characterized by its mass spectrum as follows: MS (m/z): 322 ([M+H]+, 100).

reactant | 4-chloro-6-(4-fluorophenyl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C14H8ClFN2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-(N-cyclohexylamino)-6-(4-fluorophenyl)-quinazoline | 78% yield | C1(CCCCC1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(C=C1)F | C20H20FN3
